US09382228B2
To a degassed solution of N-(5-((2-chloropyridin-4-yl)oxy)pyrazin-2-yl)acetamide (0.25 g, 0.945 mmol) in dioxane (6 mL) was added a solution of K2CO3 (0.261 g, 1.889 mmol) in water (1.5 mL), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.255 g, 1.228 mmol), and Pd(PPh3)4 (0.109 g, 0.094 mmol). The mixture was stirred at 80° C. for 3 h. The mixture was diluted with water (30 mL) and extracted with EtOAc (2×80 mL). The combined organics were washed with brine, dried (Na2SO4) and concentrated in vacuo. The crude product was purified by silica gel chromatography (MeOH/DCM) to afford N-(5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyrazin-2-yl)acetamide (240 mg, 82%) product as white solid. 1H NMR (400 MHz, DMSO-d6): δ 10.86 (s, 1H), 8.97 (d, J=1.4 Hz, 1H), 8.43 (dd, J=5.6, 0.5 Hz, 1H), 8.40 (d, J=1.4 Hz, 1H), 8.27 (s, 1H), 7.98 (d, J=0.7 Hz, 1H), 7.40 (m, 1H), 6.92 (dd, J=5.6, 2.4 Hz, 1H), 3.85 (s, 3H), 2.12 (s, 3H); MS (ESI) m/z: 311.1 (M+H+).

reactant | N-(5-((2-chloropyridin-4-yl)oxy)pyrazin-2-yl)acetamide | 0.945 mmol, 0.25 g | ClC1=NC=CC(=C1)OC=1N=CC(=NC1)NC(C)=O | C11H9ClN4O2
reactant | K2CO3 | 1.889 mmol, 0.261 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.228 mmol, 0.255 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.5 mL | O | H2O
solvent | water | 30 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.094 mmol, 0.109 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyrazin-2-yl)acetamide | 240 mg, 82% | CN1N=CC(=C1)C1=NC=CC(=C1)OC=1N=CC(=NC1)NC(C)=O | C15H14N6O2
